US07429605B2
Preparation of 2-Methyl-3-[4-(2-[1,2,3]triazol-1-yl-ethanesulfinylmethyl)-phenoxymethyl]-6-(4-trifluoromethyl-phenyl)-pyridine
A solution of 126 mg (mmol) 4-(2-[1,2,3]triazol-1-yl-ethanesulfinylmethyl)-phenol in 4.0 ml N,N-dimethylformamide was treated at 0° C. with 14 mg (0.55 mmol) of 95% sodium hydride and stirred at 0° C. for 30 min., then 143 mg (0.50 mmol) 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine were added and stirring continued over night. After addition of 8 ml water, the precipitate was isolated, washed thoroughly with water, methanol/water 1:1, and a small amount of ether. The residue was purified by chromatography on silica (eluent: ethyl acetate/methanol 9:1) to give 130 mg (52%) of the title compound as white powder.

reactant | 4-(2-[1,2,3]triazol-1-yl-ethanesulfinylmethyl)-phenol | 126 mg | N1(N=NC=C1)CCS(=O)CC1=CC=C(C=C1)O | C11H13N3O2S
reactant | sodium hydride | 0.55 mmol, 14 mg | [H-].[Na+]
reactant | 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | 0.50 mmol, 143 mg | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C14H11ClF3N
reactant | water | 8 ml | O | H2O
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-3-[4-(2-[1,2,3]triazol-1-yl-ethanesulfinylmethyl)-phenoxymethyl]-6-(4-trifluoromethyl-phenyl)-pyridine | 130 mg, 52% | CC1=NC(=CC=C1COC1=CC=C(C=C1)CS(=O)CCN1N=NC=C1)C1=CC=C(C=C1)C(F)(F)F | C25H23F3N4O2S
